data/polar.json
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[cH:1]1[cH:2][cH:16][cH:7][c:10]2[c:3]1[N+:20]([CH3:12])=[CH:15][C:13]2=[CH:11][c:19]1[cH:17][cH:21][cH:25][cH:22][cH:18]1.[cH:4]1[cH:6][c:8]2[c:26]([cH:14][cH:27]1)[CH:24]=[CH:5][CH:23]2[Li:9]>>[Li+:9].[cH:1]1[cH:2][cH:16][cH:7][c:10]2[c:3]1[n:20]([CH3:12])[cH:15][c:13]2[CH:11]([c:19]1[cH:17][cH:21][cH:25][cH:22][cH:18]1)[CH:23]1[CH:5]=[CH:24][c:26]2[c:8]1[cH:6][cH:4][cH:27][cH:14]2", "epd": [["Sigma-/Sigma+", [23, 9], [23, 11]], ["Pi-/Pi+", [11, 13], [13, 15]], ["Pi-/LP+", [15, 20], [20]]]}
{"reaction_name": "π-Nucleophile capture of a preformed localized carbocation", "rsmi": "[CH:1]1=[CH:4][C:22](=[C:3]([CH3:10])[CH3:11])[CH:5]=[CH:2]1.[cH:6]1[c:12]([CH+:25][c:13]2[cH:7][c:16]([F:20])[cH:24][c:17]([F:21])[cH:8]2)[cH:9][c:14]([F:18])[cH:23][c:15]1[F:19]>>[CH:1]1=[CH:2][CH:5]=[C:22]([C+:3]([CH3:10])[CH3:11])[CH:4]1[CH:25]([c:12]1[cH:6][c:15]([F:19])[cH:23][c:14]([F:18])[cH:9]1)[c:13]1[cH:7][c:16]([F:20])[cH:24][c:17]([F:21])[cH:8]1", "epd": [["Pi-/Pi+", [22, 3], [5, 22]], ["Pi-/Pi+", [2, 5], [1, 2]], ["Pi-/Sigma+", [4, 1], [4, 25]]]}
{"reaction_name": "σ-Bond carbon transfer to a preformed localized carbocation", "rsmi": "[CH:1]12[CH:2]3[CH:3]4[CH:4]5[CH:5]1[Ti:29]23451678([CH2:21][c:35]2[cH:18][cH:37][cH:16][cH:38][cH:19]2)([CH2:22][c:34]2[cH:17][cH:36][cH:15][cH:39][cH:20]2)[CH:6]2[CH:7]1[CH:8]6[CH:9]7[CH:10]28.[cH:11]1[c:23]([CH+:42][c:24]2[cH:12][c:27]([F:32])[cH:41][c:28]([F:33])[cH:13]2)[cH:14][c:25]([F:30])[cH:40][c:26]1[F:31]>>[CH:1]12[CH:2]3[CH:3]4[CH:4]5[CH:5]1[Ti+:29]23451678([CH2:22][c:34]2[cH:17][cH:36][cH:15][cH:39][cH:20]2)[CH:6]2[CH:7]1[CH:8]6[CH:9]7[CH:10]28.[cH:11]1[c:23]([CH:42]([CH2:21][c:35]2[cH:18][cH:37][cH:16][cH:38][cH:19]2)[c:24]2[cH:12][c:27]([F:32])[cH:41][c:28]([F:33])[cH:13]2)[cH:14][c:25]([F:30])[cH:40][c:26]1[F:31]", "epd": [["Sigma-/Sigma+", [21, 29], [21, 42]]]}
{"reaction_name": "Benzyl protection", "rsmi": "[CH3:1][CH2:2][O:3][H:12].[cH:4]1[cH:5][cH:6][cH:7][cH:8][c:9]1[CH2:10][Br:11].[O-:13][H:14]>>[CH3:1][CH2:2][O:3][CH2:10][c:9]1[cH:8][cH:7][cH:6][cH:5][cH:4]1.[Br-:11].[O:13]([H:12])[H:14]", "epd": [["LP-/Sigma+", [3], [3, 10]], ["Sigma-/LP+", [10, 11], [11]], ["LP-/Sigma+", [13], [12, 13]], ["Sigma-/LP+", [3, 12], [3]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[cH:1]1[cH:2][cH:16][cH:4][c:6]2[c:3]1[N+:26]([CH3:8])=[CH:15][C:9]2=[CH:7][c:23]1[cH:20][cH:27][cH:33][cH:28][cH:21]1.[cH:5]1[cH:17][cH:10][c:25]([C:19](=[C:12]2[N:13]([CH3:31])[C:22]([CH3:30])=[C:34]([CH3:32])[S:24]2)[O:29][CH3:14])[cH:11][cH:18]1>>[cH:1]1[cH:2][cH:16][cH:4][c:6]2[c:3]1[n:26]([CH3:8])[cH:15][c:9]2[CH:7]([C:19]([c:12]1[n+:13]([CH3:31])[c:22]([CH3:30])[c:34]([CH3:32])[s:24]1)([c:25]1[cH:10][cH:17][cH:5][cH:18][cH:11]1)[O:29][CH3:14])[c:23]1[cH:20][cH:27][cH:33][cH:28][cH:21]1", "epd": [["LP-/Pi+", [13], [12, 13]], ["Pi-/Sigma+", [19, 12], [19, 7]], ["Pi-/Pi+", [7, 9], [9, 15]], ["Pi-/LP+", [15, 26], [26]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N+:1](=[O:2])([c:11]1[cH:9][c:14]([N+:17](=[O:8])[O-:20])[cH:18][c:10]2[c:24]1[n:16][o:22][n+:28]2[O-:3])[O-:15].[S:4]1(=[O:26])(=[O:27])[c:19]2[c:6]([cH:13][cH:5][cH:21][cH:12]2)[C:25]([O-:7])=[N:23]1>>[N+:1](=[O:2])([C:11]1=[CH:9][C:14](=[N+:17]([O-:8])[O-:20])[CH:18]([N:23]2[S:4](=[O:26])(=[O:27])[c:19]3[c:6]([cH:13][cH:5][cH:21][cH:12]3)[C:25]2=[O:7])[c:10]2[c:24]1[n:16][o:22][n+:28]2[O-:3])[O-:15]", "epd": [["LP-/Pi+", [7], [25, 7]], ["Pi-/Sigma+", [23, 25], [23, 18]], ["Pi-/Pi+", [18, 14], [14, 17]], ["Pi-/LP+", [17, 8], [8]]]}
{"reaction_name": "Michael addition", "rsmi": "[C:3](#[N:12])[C:19]([C:4]#[N:13])=[CH:5][c:20]1[cH:9][cH:16][cH:23][cH:17][cH:10]1.[O-:1][C:18](=[CH:2][c:8]1[cH:14][cH:6][cH:22][cH:7][cH:15]1)[O:21][CH2:24][CH3:11]>>[O:1]=[C:18]([CH:2]([CH:5]([C:19](=[C:3]=[N-:12])[C:4]#[N:13])[c:20]1[cH:9][cH:16][cH:23][cH:17][cH:10]1)[c:8]1[cH:14][cH:6][cH:22][cH:7][cH:15]1)[O:21][CH2:24][CH3:11]", "epd": [["LP-/Pi+", [1], [18, 1]], ["Pi-/Sigma+", [2, 18], [2, 5]], ["Pi-/Pi+", [5, 19], [19, 3]], ["Pi-/LP+", [3, 12], [12]]]}
{"reaction_name": "Aryl diazonium thiolation", "rsmi": "[CH3:1][S-:2].[c:3]1([N+:10]#[N:9])[cH:5][cH:7][cH:4][cH:8][cH:6]1>>[CH3:1][S:2][c:3]1[cH:5][cH:7][cH:4][cH:8][cH:6]1.[N:9]#[N:10]", "epd": [["LP-/Sigma+", [2], [2, 3]], ["Sigma-/LP+", [3, 10], [10]]]}
